US08278343B2
Preparation 27: 2-(4-Chloro-phenyl)-pyrimidin-5-ol
To a stirred solution of 2-(4-chloro-phenyl)-5-methoxy-pyrimidine (100 mg, 0.45 mmol) was added hydrogen bromide in acetic acid (3 mL of a 33% by weight solution). The resulting mixture was stirred at reflux for 4 hours. The mixture was then partitioned between diethyl ether (25 mL) and saturated sodium hydrogen carbonate solution (25 mL). The organics were further washed with water (25 mL), brine (25 mL), dried over magnesium sulphate, filtered and concentrated under reduced pressure. The resulting precipitate was washed with pentane (10 mL) and then dried under reduced pressure to afford the title compound as a white solid in 88% yield, 82 mg.

reactant | 2-(4-chloro-phenyl)-5-methoxy-pyrimidine | 0.45 mmol, 100 mg | ClC1=CC=C(C=C1)C1=NC=C(C=N1)OC | C11H9ClN2O
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-Chloro-phenyl)-pyrimidin-5-ol | 88% yield | ClC1=CC=C(C=C1)C1=NC=C(C=N1)O | C10H7ClN2O
